data/mechanism_extracts/OrgBiomolChem/10.1039_D1OB00236H.json
{"doi": "10.1039_D1OB00236H", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative selenocyclization of 2-vinylbenzamides with diphenyl diselenide to form selenium-containing isobenzofuran-imines (3a-type products) in a flow microreactor.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (PhSeSePh, 2a) to a cationic radical intermediate that fragments to PhSe radical and PhSe cation; later, anodic oxidation of cyclized intermediate E to cation F", "key_intermediates": [{"name": "diphenyl diselenide cationic radical (A)", "smiles": null, "role": "transient"}, {"name": "phenylselenium radical (B, PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenium cation (C, PhSe+)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical D (benzylic C-radical bearing SePh after PhSe• addition to vinyl)", "smiles": null, "role": "reactive"}, {"name": "cyclized intermediate E (isobenzofuran-type with N-H, after intramolecular O-cyclization of D)", "smiles": null, "role": "transient"}, {"name": "cationic intermediate F (oxidized E)", "smiles": null, "role": "reactive"}, {"name": "intermediate G (cation adduct from PhSe+ + 1a, path b alternative)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes PhSeSePh (2a) to radical cation A, which fragments to PhSe• (B) and PhSe+ (C). PhSe• adds to the vinyl group of 2-vinylbenzamide 1a to give alkyl radical D, which cyclizes intramolecularly via the amide oxygen to E; E is further oxidized at the anode to cation F, which is deprotonated to give product 3a. Cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction significantly suppressed; yield of 3a dropped to 10% with 3 equiv"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield of 3a reduced to 30% with 3 equiv"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield of 3a reduced to 40% with 3 equiv, supporting radical intermediates"}, {"name": "diphenyl diselenide (2a)", "smiles": "c1ccc(cc1)[Se][Se]c1ccccc1", "purpose": "redox_probe", "observation": "CV shows oxidation peak at 1.84 V, lower than 1a at 2.25 V, indicating 2a is preferentially oxidized at the anode"}, {"name": "2-vinylbenzamide 1a", "smiles": null, "purpose": "redox_probe", "observation": "CV oxidation peak at 2.25 V, higher than 2a"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Two pathways proposed: favored path a (PhSe• radical addition to alkene → alkyl radical D → cyclization → anodic oxidation to F → product) and alternative path b in which PhSe+ cation C reacts with 1a to give cation G, undergoing intramolecular nucleophilic cyclization to F and then dehydrogenation to 3a. The authors cannot exclude path b."}
